US08871758B2
Cyclohexyl-(5,5,6,6-tetramethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)amine
200 mg of 5,5,6,6-tetramethyl-2-(4-nitrophenoxy)-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide and 60 mg of cyclohexylamine were dissolved in 2 ml of dichloromethane, and the mixture was stirred at room temperature for 15 minutes. Subsequently, the reaction solution was diluted with 50 ml of dichloromethane, washed twice with 50 ml of 0.1 N aqueous sodium hydroxide solution, twice with 50 ml of 1 N aqueous hydrochloric acid and with 50 ml of saturated aqueous sodium hydrogencarbonate solution, dried over Na2SO4 and concentrated by rotary evaporation. This gave the product (41 mg) with a molecular weight of 288.4 g/mol (C13H24N2O3S); MS (ESI): m/e=289 (M+H+).

reactant | 5,5,6,6-tetramethyl-2-(4-nitrophenoxy)-5,6-dihydro-1,4,3-oxathiazine 4,4-dioxide | 200 mg | CC1(S(N=C(OC1(C)C)OC1=CC=C(C=C1)[N+](=O)[O-])(=O)=O)C | C13H16N2O6S
reactant | cyclohexylamine | 60 mg | C1(CCCCC1)N | C6H13N
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | Cyclohexyl-(5,5,6,6-tetramethyl-4,4-dioxo-5,6-dihydro-4H-4lambda6-[1,4,3]oxathiazin-2-yl)amine | 41 mg | C1(CCCCC1)NC=1OC(C(S(N1)(=O)=O)(C)C)(C)C | C13H24N2O3S
